US07214802B2
A solution of 1.71 mL (3.42 mmol) of 2M NaOH was added to 0.540 g (1.49 mmol) N-Boc-4-(2-cyclopropyl-4-ethoxycarbonyl-2H-pyrazol-3-yl)-piperidine in 15 mL of EtOH. After stirring at 60° C. for 18 h, the solution was concentrated and dissolved in 100 mL of EtOAc (100 mL) and 10 mL of 5% HCl (10 mL). The extract was washed with 50 mL of brine (50 mL), dried over MgSO4, filtered, concentrated, and chromatographed (0–100% EtOAc in hexanes) to give 330 mg of N-Boc-4-(4-carboxy-2-cyclopropyl-2H-pyrazol-3-yl)-piperidine as a white powder.

reactant | NaOH | 3.42 mmol, 2M, 1.71 mL | [OH-].[Na+]
reactant | N-Boc-4-(2-cyclopropyl-4-ethoxycarbonyl-2H-pyrazol-3-yl)-piperidine | 1.49 mmol, 0.540 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C=1N(N=CC1C(=O)OCC)C1CC1 | C19H29N3O4
solvent | EtOH | 15 mL | CCO | C2H6O
product | N-Boc-4-(4-carboxy-2-cyclopropyl-2H-pyrazol-3-yl)-piperidine | 330 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)C=1N(N=CC1C(=O)O)C1CC1 | C17H25N3O4
